US04885297
To an ice-cooled solution of 6-chloro-2-oxo-1-{[4-(2-hydroxyethyl)-1-piperazinyl]carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine (1.35 g) in dry pyridine (10 ml), acetic anhydride (0.73 g) was added dropwise and then the mixture was stirred at the temperature for 2 hours and at the room temperature for 4 hours. After removal of the solvent, the residual oil obtained was purified on an aluminum-oxide column chromatography using a mixture of chloroform and n-hexane (2:1). The fractions containing the objective compound were collected and evaporated to give crude crystals. The crude crystals were recrystallized from ethyl acetate to afford 6-chloro-2-oxo-1-{[4-(2-acetoxyethyl)-1-piperazinyl]carbonylmethyl}-1,2-dihydrothiazolo[5,4-b]pyridine (1,2 g).

reactant | 6-chloro-2-oxo-1-{[4-(2-hydroxyethyl)-1-piperazinyl]carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine | 1.35 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCN(CC2)CCO)=O | C14H17ClN4O3S
reactant | acetic anhydride | 0.73 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-chloro-2-oxo-1-{[4-(2-acetoxyethyl)-1-piperazinyl]carbonylmethyl}-1,2-dihydrothiazolo[5,4-b]pyridine | 1,2 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCN(CC2)CCOC(C)=O)=O | C16H19ClN4O4S
